US07479502B2
A solution of tin chloride (52 g) and 3-chloro-2-cyano-5-nitro-pyridine (10.3 g) was stirred in ethyl acetate (200 mL) at room temperature for 10 minutes and at 70° C. for 4 hours. The solution was cooled to room temperature and diluted with ethyl acetate (500 mL). Sodium bicarbonate (100 g) added in four portions to the mixture within 4 hours. The mixture was stirred vigorously for 20 hours. The suspension was filtered and the filtrate was washed with saturated aqueous sodium bicarbonate solution. The solvent was evaporated to give 5-amino-3-chloro-2-cyanopyridine (4.34 g) as an off-white powder.

reactant | tin chloride | 52 g | [Sn](Cl)(Cl)(Cl)Cl
reactant | 3-chloro-2-cyano-5-nitro-pyridine | 10.3 g | ClC=1C(=NC=C(C1)[N+](=O)[O-])C#N | C6H2ClN3O2
reactant | Sodium bicarbonate | 100 g | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
product | 5-amino-3-chloro-2-cyanopyridine | 4.34 g | NC=1C=C(C(=NC1)C#N)Cl | C6H4ClN3
